US08097610B2
Preparation of [1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamine
A mixture of 1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylamine (335 mg), acetone (92 ul), acetic acid (0.1 mL) and methanol (3 mL) was stirred at room temperature for 5 minutes. To the reaction solution was added triacetoxy sodium boron hydride (332 mg). The mixture was stirred at room temperature for 16 hours. The reaction solution was concentrated under reduced pressure. Aqueous sodium hydrogencarbonate was added thereto and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (160 mg). Yield: 41%.

reactant | 1-(6-chlorobenzothiazole-2-yl)piperidine-4-ylamine | 335 mg | ClC1=CC2=C(N=C(S2)N2CCC(CC2)N)C=C1 | C12H14ClN3S
reactant | acetone | 92 ul | CC(=O)C | C3H6O
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 3 mL | CO | CH4O
product | [1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamine | 160 mg, Yield: 41% | ClC1=CC2=C(N=C(S2)N2CCC(CC2)NC(C)C)C=C1 | C15H20ClN3S
